US07842688B2
d2) Methyl 2-(3-methoxypropyl)-2H-indazole-6-carboxylate
Analogously to Example 8c, 1.0 g of methyl 1H-indazole-6-carboxylate and 1.16 g of 1-chloro-3-methoxypropane are reacted. The title compounds are obtained as yellowish oils.

reactant | methyl 1H-indazole-6-carboxylate | 1.0 g | N1N=CC2=CC=C(C=C12)C(=O)OC | C9H8N2O2
reactant | 1-chloro-3-methoxypropane | 1.16 g | ClCCCOC | C4H9ClO
product | Methyl 2-(3-methoxypropyl)-2H-indazole-6-carboxylate | COCCCN1N=C2C=C(C=CC2=C1)C(=O)OC | C13H16N2O3
